US05962458
1,2-Dibromoethane (725 mg, 4 mmol) was added by portions of 70 μl every 30 minutes to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (320 mg, 1 mmol), (prepared as described for the starting material in Example 24), and potassium carbonate (552 mg, 4 mmol) in DMF (5 ml) heated at 35° C. The mixture was stirred for a further 30 minutes after the completion of the addition and then partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried (MgSO4) and the solvent removed by evaporation. The residue was triturated with petroleum ether/ether, the solid was collected by filtration and dried under vacuum to give 7-(2-bromoethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline (200 mg, 47%). 1H NMR Spectrum: (DMSOd6) 3.89(t, 2H); 3.96(s, 3H); 4.51(t, 2H); 7.23(s, 1H); 7.35(dd, 1H); 7.55(dd, 1H); 7.59(t, 1H); 7.83(s, 1H); 8.36(s, 1H); 9.57(s, 1H)

reactant | 1,2-Dibromoethane | 4 mmol, 725 mg | BrCCBr | C2H4Br2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1 mmol, 320 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | potassium carbonate | 4 mmol, 552 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 7-(2-bromoethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline | 200 mg, 47% | BrCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C17H14BrClFN3O2
